US05569640
a) 2,2-Dimethyl-5-phenyl-4H-(1,3)benzodioxin-4-one
0.23 g (0.2 mmol) of tetrakistriphenylphosphinepalladium is added under nitrogen to a solution of 2.93 g (9 mmol) of 2,2-dimethyl-5-trifluoromethylsulfonyloxy-4H-(1,3)benzodioxin-4-one in 50 ml of dimethylformamide, the mixture is stirred for a few minutes and 2.97 g (14 mmol) of potassium phosphate and 2.04 g (9.9 mmol) of diisopropyl phenylboronate are then added. The mixture is heated to 100° C. until conversion is complete (about 16 h). After cooling, the reaction solution is poured into a mixture of 250 ml of water and 6 g of orthophosphoric acid and extracted three times with methyl tert-butyl ether, and the combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated. 2.6 g of a dark oil remain, which is chromatographed on silica gel using toluene/acetone. 1.3 g (57%) of a colorless solid are obtained, m.p. 158°-163° C. (recrystallized from hexane).

reactant | 2,2-dimethyl-5-trifluoromethylsulfonyloxy-4H-(1,3)benzodioxin-4-one | 9 mmol, 2.93 g | CC1(OC(C2=C(O1)C=CC=C2OS(=O)(=O)C(F)(F)F)=O)C | C11H9F3O6S
reactant | potassium phosphate | 14 mmol, 2.97 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | diisopropyl phenylboronate | 9.9 mmol, 2.04 g | C1(=CC=CC=C1)B(OC(C)C)OC(C)C | C12H19BO2
reactant | orthophosphoric acid | 6 g | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | tetrakistriphenylphosphinepalladium | 0.2 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 250 ml | O | H2O
product | 2,2-Dimethyl-5-phenyl-4H-(1,3)benzodioxin-4-one | 1.3 g, 57% | CC1(OC(C2=C(O1)C=CC=C2C2=CC=CC=C2)=O)C | C16H14O3
